US09376438B2
Into a 50-mL scaled tube, was placed a solution of 3-[2-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]ethyl]-1,3-thiazolidine-2,4-dione (100 mg, 0.22 mmol, 1.00 equiv) in methanol (20 mL), cyclopropanecarbaldehyde (47 mg, 0.67 mmol, 2.99 equiv), piperidine (9.5 mg, 0.11 mmol, 0.50 equiv), dichloromethane (5 mL). The resulting solution was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with dichloromethane/methanol (100/1) to give 28 mg (24%) of 3-[2-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]ethyl]-5-(cyclopropylmethylidene)-1,3-thiazolidine-2,4-dione as a white solid. LC-MS (ES, m/z): 499 (M+H)+

reactant | 3-[2-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]ethyl]-1,3-thiazolidine-2,4-dione | 0.22 mmol, 100 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)CCN2C(SCC2=O)=O | C22H18N6O3S
reactant | cyclopropanecarbaldehyde | 0.67 mmol, 47 mg, 2.99 equiv | C1(CC1)C=O | C4H6O
reactant | piperidine | 0.11 mmol, 9.5 mg, 0.50 equiv | N1CCCCC1 | C5H11N
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | 3-[2-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]ethyl]-5-(cyclopropylmethylidene)-1,3-thiazolidine-2,4-dione | 28 mg, 24% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)CCN2C(SC(C2=O)=CC2CC2)=O | C26H22N6O3S
